US07259157B2
(5-{[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-carbamoyl}-pyrimidin-2-yl)-carbamic acid tert-butyl ester was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2-tert-butoxycarbonylamino-pyrimidine-5-carboxylic acid (prepared by BOC protection of ethyl 2-amino-5-pyrimidine carboxylate [prepared as described by P. Schenone, et al., J. Heterocyclic Chem., 27:295–305(1990)] using di-tert-butyl dicarbonate and 4-dimethylaminopyridine in acetonitrile, followed by saponification with sodium hydroxide and neutralization with dilute aqueous HCl) as described in EXAMPLE 1, Step 2:

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2-tert-butoxycarbonylamino-pyrimidine-5-carboxylic acid | C(C)(C)(C)OC(=O)NC1=NC=C(C=N1)C(=O)O | C10H13N3O4
product | (5-{[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-carbamoyl}-pyrimidin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC=C(C=N1)C(NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1)=O)=O | C24H33N5O5S
